US07795267B2
Phenyl tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate
To a solution of 1,1-dimethylethyl tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate (0.12 g, 0.38 mmol) in dichloromethane (5 mL) was added trifluoroacetic acid (1 mL), and the mixture was stirred at room temperature for 4 hours. The reaction solution was concentrated, and then ethyl acetate was added to the residue. The resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue were added tetrahydrofuran (5 mL), triethylamine (0.10 ml, 0.75 mmol) and phenyl chlorocarbonate (88 mg, 0.56 mmol), and the mixture was stirred at room temperature for 2 hours. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=9:1 to ethyl acetate) to obtain the title compound (0.10 g, yield 80%) as a diastereomer mixture. Diastereomer ratio (α:β=3:1).

reactant | 1,1-dimethylethyl tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.38 mmol, 0.12 g | O=C1OC(C2N1CCN(C2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C17H22N2O4
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 0.75 mmol, 0.10 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorocarbonate | 0.56 mmol, 88 mg | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Phenyl tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.10 g, yield 80% | O=C1OC(C2N1CCN(C2)C(=O)OC2=CC=CC=C2)C2=CC=CC=C2 | C19H18N2O4
